US08686024B2
Synthesis of indolin-5-yl phenylcarbamate
To a solution of 1-benzylindolin-5-yl phenylcarbamate (30 mg, 87 μmol) in 3.0 mL of isopropylalcohol was added palladium hydroxide 10% on carbon (60 mg) under nitrogen. After the vessel was purged with hydrogen, the reaction mixture was stirred under 1 atm of hydrogen at room temperature for 3 h. After the vessel was purged with nitrogen, the reaction mixture was filtered to remove palladium hydroxide 10% on carbon. The filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=85/15 to 40/60) to obtain the title compound as a white solid (11.5 mg, 52%).

reactant | 1-benzylindolin-5-yl phenylcarbamate | 87 μmol, 30 mg | C1(=CC=CC=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C22H20N2O2
solvent | isopropylalcohol | 3.0 mL | C(C)(C)O | C3H8O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | indolin-5-yl phenylcarbamate | 11.5 mg, 52% | C1(=CC=CC=C1)NC(OC=1C=C2CCNC2=CC1)=O | C15H14N2O2
